US05532226
3.5-Bis(trifluoromethyl)benzylphosphonic acid
Diethyl 3,5-bis(trifluoromethyl)benzylphosphonate (1.0 g, 2.7 mmol)in 15 mL of cone hydrochloric acid and 0.5 mL of ethanol was heated at reflux for 72 hours. The mixture was evaporated to an oily residue which crystallized upon standing to give 0.41 g of the product (49% yield) the as a white solid: mp. 206°-208° C.; D.C.I.M.S. [MH+, 309].

reactant | Diethyl 3,5-bis(trifluoromethyl)benzylphosphonate | 2.7 mmol, 1.0 g | FC(C=1C=C(CP(OCC)(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C13H15F6O3P
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 3.5-Bis(trifluoromethyl)benzylphosphonic acid | 0.41 g, 49% yield | FC(C=1C=C(CP(O)(O)=O)C=C(C1)C(F)(F)F)(F)F | C9H7F6O3P
